US06953570B2
3-[4′-(4″-Acetoxymethyl-N,N-diphenylamino)phenyl]-2-propenal
A solution of NaOEt in ethyl alcohol (1M, 0.03 mol, 30 mL) was added dropwise to a solution of 4-[4′-Formyl-N.N-diphenylamino]benzyl acetate (3.45 g, 0.01 mol) and tributyl(1,3-dioxolan-2-ylmethyl)phosphonium bromide (0.54 M in DMF, 0.03 mol, 30 mL) in DMF (20 mL). The temperature of the mixture was raised to 90° C. and stirred overnight. After cooling the solution to room temperature, aqueous HCl (3M, 30 mL) was added dropwise, the mixture stirred for 1 hour, poured into ice (75 g), and the product extracted with ethyl ether (3×30 mL). The combined extracts were washed with saturated Na2CO3 solution and brine, dried over MgSO4 and the solvent evaporated. The product was purified by dissolving in warm ethanol, filtering, and evaporating the solvent to yield the desired product (2.80 g, 81%). m.p. 112-115° C.; 1H NMR δ: 2.0 (s, 3H, CH3), 4.68 (s, 2H, CH2O),6.53-6.64 (dd, 2H, vinyl), 7.0-7.4 (m, 13H, phenyl), 9.62-9.65 (d, 1H, CHO). Analysis: Calculated for C24H21NO3: C, 77.49%; H, 5.82%; N, 3.76%. Found: C, 77.38%; H, 5.54%; N, 3.62%.

reactant | NaOEt | CC[O-].[Na+]
reactant | ethyl alcohol | 0.03 mol, 1M, 30 mL | C(C)O | C2H6O
reactant | 4-[4′-Formyl-N.N-diphenylamino]benzyl acetate | 0.01 mol, 3.45 g | C(C)(=O)OCC1=CC=C(C=C1)N(C1=CC=C(C=C1)C=O)C1=CC=CC=C1 | C22H19NO3
reactant | tributyl(1,3-dioxolan-2-ylmethyl)phosphonium bromide | 0.03 mol, 0.54 M, 30 mL | [Br-].C(CCC)[P+](CC1OCCO1)(CCCC)CCCC
reactant | HCl | 3M, 30 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-[4′-(4″-Acetoxymethyl-N,N-diphenylamino)phenyl]-2-propenal | 2.80 g, 81% | C(C)(=O)OCC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)C=CC=O | C24H21NO3
